US07462613B2
b) 6-Chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid
27 g of 3,6-dichloro-pyridazine-4-carboxylic acid were stirred at 50° C. for 6 h in a. 1:1 mixture of concentrated sulphuric acid and water. The pure product crystallized after cooling off the reaction mixture and was filtered.

reactant | 3,6-dichloro-pyridazine-4-carboxylic acid | 27 g | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-Chloro-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid | ClC=1C=C(C(NN1)=O)C(=O)O | C5H3ClN2O3
